### PR TITLE
Normal subgroups and quotient groups

### PR DESCRIPTION
**Pull request by Taneb**
Builds off #2852, continuing towards #2729 in bitesize chunks.

### CODE REVIEW

File: src/Algebra/NormalSubgroup.agda [hunk 1]
```diff
@@ -0,0 +1,35 @@
...
+open import Algebra.Construct.Sub.Group G using (Subgroup)
+open import Data.Product.Base using (∃-syntax; _,_)
+open import Level using (suc; _⊔_)
+
+private
+  module G = Group G
+
+-- every element of the subgroup commutes in G
+Normal : ∀ {c′ ℓ′} → Subgroup c′ ℓ′ → Set (c ⊔ ℓ ⊔ c′)
+Normal subgroup = ∀ n g → ∃[ n′ ] ι n′ G.∙ g G.≈ g G.∙ ι n
```
Comment (jamesmckinna) [inline src/Algebra/NormalSubgroup.agda]: On the `Structures`/`Bundles` convention, should we call this `IsNormal`?

File: src/Algebra/NormalSubgroup.agda [hunk 2]
```diff
@@ -0,0 +1,35 @@
...
+  where open Subgroup subgroup
+
+record NormalSubgroup c′ ℓ′ : Set (c ⊔ ℓ ⊔ suc (c′ ⊔ ℓ′)) where
```
Comment (jamesmckinna) [inline src/Algebra/NormalSubgroup.agda:27]: And hence this becomes (simply?) `Normal`, as the `Bundled` version of `IsNormal`?

File: src/Algebra/NormalSubgroup.agda [hunk 3]
```diff
@@ -0,0 +1,35 @@
...
+  field
+    subgroup : Subgroup c′ ℓ′
+    normal : Normal subgroup
```
Comment (jamesmckinna) [inline src/Algebra/NormalSubgroup.agda]:
```suggestion
    isNormal : IsNormal subgroup
```
?

File: src/Algebra/NormalSubgroup.agda [hunk 4]
```diff
@@ -0,0 +1,35 @@
...
+
+  open Subgroup subgroup public
+
+abelian⇒subgroup-normal : ∀ {c′ ℓ′} → Commutative G._≈_ G._∙_ → (subgroup : Subgroup c′ ℓ′) → Normal subgroup
```
Comment (jamesmckinna) [inline src/Algebra/NormalSubgroup.agda]: Again
```suggestion
abelian⇒subgroup-normal : ∀ {c′ ℓ′} → Commutative G._≈_ G._∙_ → (subgroup : Subgroup c′ ℓ′) → IsNormal subgroup
```

File: src/Algebra/Construct/Quotient/Group.agda [hunk 5]
```diff
@@ -0,0 +1,126 @@
...
+    { fst = λ x → ≈⇒≋ (inverseˡ x)
+    ; snd = λ x → ≈⇒≋ (inverseʳ x)
+    }
+  ; ⁻¹-cong = ≋-⁻¹-cong
+  }
+
+quotientGroup : Group c (c ⊔ ℓ ⊔ c′)
+quotientGroup = record { isGroup = quotientIsGroup }
+
+project : Group.Carrier G → Group.Carrier quotientGroup
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda]: My personal preference is for `π` (for projection), echoing `ι` (for inclusion), but I won't fight for it...
... maybe I should?

**Review by jamesmckinna — APPROVED** [review]
This all looks great. I've made suggestions, but nothing is a deal-breaker.

File: src/Algebra/Construct/Quotient/Group.agda [hunk 6]
```diff
@@ -0,0 +1,126 @@
...
+open import Relation.Binary.Reasoning.Setoid setoid
+
+private
+  module N = NormalSubgroup N
+open NormalSubgroup N using (ι; module ι; normal)
+
+infix 0 _by_
+
+data _≋_ (x y : Carrier) : Set (c ⊔ ℓ ⊔ c′) where
+  _by_ : ∀ g → ι g ∙ x ≈ y → x ≋ y
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda:37]: Are you sticking with this version, or the symmetric one which multiplies on each side of the equation?
```suggestion
data _≋_ (x y : Carrier) : Set (c ⊔ ℓ ⊔ c′) where
  by: ∀ g h → ι g ∙ x ≈  ι h ∙ y → x ≋ y
```

plus some smart constructors/pattern synonyms to achieve the various properties?

File: src/Algebra/NormalSubgroup.agda (hunk 1 above)
Comment (jamesmckinna) [inline src/Algebra/NormalSubgroup.agda]: How does flipping the old definition improve matters?
Curious...

Comment (Taneb) [reply src/Algebra/NormalSubgroup.agda]: If you look at the diff of the commit that flipped this (https://github.com/agda/agda-stdlib/pull/2854/commits/e3baf591bc94deaf20b6c359fbd95639f3a31708#diff-4b2ec40733e56b6ad2e835149fee88672cc51d5ec131be90521ea0098f4813cc) in the quotient groups module, previously every time I was using `normal` I had to `sym` it, this way I can use it directly

File: src/Algebra/Construct/Quotient/Group.agda (hunk 6 above)
Comment (Taneb) [reply src/Algebra/Construct/Quotient/Group.agda:37]: I want to experiment with the symmetric version more, but:
* it means we need to carry around more data, operationally (minor issue)
* I think it works out pretty close to being equivalent to this construction on the Grothendieck group for a cancellative monoid, and if that's the case I'd rather have that in two steps explicitly

File: src/Algebra/Construct/Quotient/Group.agda (hunk 5 above)
Comment (Taneb) [reply src/Algebra/Construct/Quotient/Group.agda]: I've got no strong feeling here

File: src/Algebra/NormalSubgroup.agda [hunk 7]
```diff
@@ -0,0 +1,35 @@
...
+
+{-# OPTIONS --safe --cubical-compatible #-}
+
+open import Algebra.Bundles using (Group)
+
+module Algebra.NormalSubgroup {c ℓ} (G : Group c ℓ)  where
+
+open import Algebra.Definitions
+open import Algebra.Construct.Sub.Group G using (Subgroup)
+open import Data.Product.Base using (∃-syntax; _,_)
```
Comment (jamesmckinna) [inline src/Algebra/NormalSubgroup.agda]: is this the best way to represent `Normal`, or would having a bespoke `record` definition be better for eg. type inference?

As well as eg. widening such a record with additional manifest fields (not sure what's needed here, but... extensibility considerations in general make the use of Sigma-types an anti-pattern for me)

File: src/Algebra/Construct/Quotient/Group.agda [hunk 8]
```diff
@@ -0,0 +1,126 @@
...
+    }
+  ; inverse = record
+    { fst = λ x → ≈⇒≋ (inverseˡ x)
+    ; snd = λ x → ≈⇒≋ (inverseʳ x)
+    }
+  ; ⁻¹-cong = ≋-⁻¹-cong
+  }
+
+quotientGroup : Group c (c ⊔ ℓ ⊔ c′)
+quotientGroup = record { isGroup = quotientIsGroup }
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda:101]: cf. #2855 I'd like an additional public export here
```suggestion
quotientGroup : Group c (c ⊔ ℓ ⊔ c′)
quotientGroup = record { isGroup = quotientIsGroup }

module _/_ = Group quotientGroup
```

so that the quotient *construction* may always be referred to via `G / N` in any client context-of-use

File: src/Algebra/NormalSubgroup.agda (hunk 7 above)
Comment (JacquesCarette) [reply src/Algebra/NormalSubgroup.agda]: My instincts also go in that direction, i.e. that `Normal` should be a record.

File: src/Algebra/NormalSubgroup.agda [hunk 9]
```diff
@@ -0,0 +1,41 @@
...
+open import Level using (suc; _⊔_)
+
+private
+  module G = Group G
+
+-- every element of the subgroup commutes in G
+record IsNormal {c′ ℓ′} (subgroup : Subgroup c′ ℓ′) : Set (c ⊔ ℓ ⊔ c′) where
+  open Subgroup subgroup
+  field
+    normal : ∀ n g → ∃[ n′ ] ι n′ G.∙ g G.≈ g G.∙ ι n
```
Comment (Taneb) [inline src/Algebra/NormalSubgroup.agda]: Now that this is a record, should this field be split into two, one which gives the value, and one which gives the proof?

File: src/Algebra/NormalSubgroup.agda (hunk 2 above)
Comment (Taneb) [reply src/Algebra/NormalSubgroup.agda:27]: I'd rather that this remained `NormalSubgroup`, because we're using `Normal` as an adjective, not a noun (unlike the records in `Algebra.Bundles`, which are all nouns)

File: src/Algebra/Construct/Quotient/Group.agda (hunk 8 above)
Comment (Taneb) [reply src/Algebra/Construct/Quotient/Group.agda:101]: I don't think this should be a _module_ here. It would be awkward to use as such, you'd end up with things like `G /.inverseˡ N` which doesn't read clearly. I will add this as a _value_ however.

File: src/Algebra/NormalSubgroup.agda (hunk 9 above)
Comment (jamesmckinna) [reply src/Algebra/NormalSubgroup.agda]: Absolutely!
The use of Sigma/exists fossilises the two fields as fst and snd, or whatever they've (locally) been renamed to, but a record permits both more informative names, and the possibility to extend with additional structure if necessary/desirable. 

Separately, the use of bespoke records may help elsewhere with type inference...

File: src/Algebra/Construct/Quotient/Group.agda [hunk 10]
```diff
@@ -0,0 +1,129 @@
...
+open import Function.Definitions using (Surjective)
+open import Level using (_⊔_)
+open import Relation.Binary.Core using (_⇒_)
+open import Relation.Binary.Definitions using (Reflexive; Symmetric; Transitive)
+open import Relation.Binary.Structures using (IsEquivalence)
+open import Relation.Binary.Reasoning.Setoid setoid
+
+private
+  module N = NormalSubgroup N
+open NormalSubgroup N using (ι; module ι; conjugate; normal)
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda:32]: Can simplify this to:
```suggestion
private
  open module N = NormalSubgroup N using (ι; module ι; conjugate; normal)
```

File: src/Algebra/NormalSubgroup.agda [hunk 11]
```diff
@@ -0,0 +1,37 @@
...
+  field
+    subgroup : Subgroup c′ ℓ′
+    isNormal : IsNormal subgroup
+
+  open Subgroup subgroup public
+  open IsNormal isNormal public
+
+abelian⇒subgroup-normal : ∀ {c′ ℓ′} → Commutative G._≈_ G._∙_ → (subgroup : Subgroup c′ ℓ′) → IsNormal subgroup
+abelian⇒subgroup-normal ∙-comm subgroup = record { normal = λ n g → ∙-comm (ι n) g }
+  where open Subgroup subgroup
```
Comment (jamesmckinna) [inline src/Algebra/NormalSubgroup.agda:37]: I'd maybe be tempted to lift this out to `Algebra.Construct.Quotient.AbelianGroup` to bundle up the quotient-out-of-any-subgroup construction, and simplify the downstream imports in #2855 ? See #2859 .

File: CHANGELOG.md [hunk 12]
```diff
@@ -79,10 +79,14 @@ Deprecated names
 New modules
 -----------
 
+* `Algebra.Cosntruct.Quotient.Group` for the definition of quotient groups.
```
Comment (jamesmckinna) [inline CHANGELOG.md]: Typo
```suggestion
* `Algebra.Construct.Quotient.Group` for the definition of quotient groups.
```

File: src/Algebra/Construct/Quotient/Group.agda [hunk 13]
```diff
@@ -0,0 +1,129 @@
...
+quotientGroup = record { isGroup = quotientIsGroup }
+
+_/_ : Group c (c ⊔ ℓ ⊔ c′)
+_/_ = quotientGroup
+
+project : Group.Carrier G → Group.Carrier quotientGroup
+project x = x -- because we do all the work in the relation
+
+project-isHomomorphism : IsGroupHomomorphism rawGroup (Group.rawGroup quotientGroup) project
+project-isHomomorphism = record
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda]: Naming?
```suggestion
project-isGroupHomomorphism : IsGroupHomomorphism rawGroup (Group.rawGroup quotientGroup) project
project-isGroupHomomorphism = record
```

Twofold reasons:
* Subsequently, for `Ring R / Ideal I`, you also define `project-isHomomorphism : IsRingHomomorphism`, and maybe that's enough (let the `X` path context of the algebra determine what kind of `IsXHomomorphism` is defined
* BUT, for `Ring`, what you actually need is to separate out the `isMonoidHomomorphism` field, so why not also `isGroupHomomorphism`?

File: src/Algebra/Construct/Quotient/Group.agda [hunk 14]
```diff
@@ -0,0 +1,129 @@
...
+  { isMonoidHomomorphism = record
+    { isMagmaHomomorphism = record
+      { isRelHomomorphism = record
+        { cong = ≈⇒≋
+        }
+      ; homo = λ _ _ → ≋-refl
+      }
+    ; ε-homo = ≋-refl
+    }
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda:119]: This should be lifted out as a separate (prior) definition
```agda
project-isMagmaHomomorphism : IsMagmaHomomorphism rawMagma (Group.rawMagma quotientGroup) project
project-isMagmaHomomorphism = record
  { isRelHomomorphism = record
    { cong = ≈⇒≋
    }
  ; homo = λ _ _ → ≋-refl
  }

project-isMonoidHomomorphism : IsMonoidHomomorphism rawMonoid (Group.rawMonoid quotientGroup) project
project-isMonoidHomomorphism = record
  { isMagmaHomomorphism = project-isMagmaHomomorphism
  ; ε-homo = ≋-refl
  }

project-isGroupHomomorphism : IsGroupHomomorphism rawGroup (Group.rawGroup quotientGroup) project
project-isGroupHomomorphism = record
  { isMonoidHomomorphism = project-isMonoidHomomorphism
  ; ⁻¹-homo = λ _ → ≋-refl
  }
```

File: src/Algebra/NormalSubgroup.agda [hunk 15]
```diff
@@ -0,0 +1,37 @@
...
+-- Definition of normal subgroups
+------------------------------------------------------------------------
+
+{-# OPTIONS --safe --cubical-compatible #-}
+
+open import Algebra.Bundles using (Group)
+
+module Algebra.NormalSubgroup {c ℓ} (G : Group c ℓ)  where
+
+open import Algebra.Definitions
```
Comment (jamesmckinna) [inline src/Algebra/NormalSubgroup.agda]: Unused!

File: src/Algebra/Construct/Quotient/Group.agda [hunk 16]
```diff
@@ -0,0 +1,129 @@
...
+≋-isEquivalence : IsEquivalence _≋_
+≋-isEquivalence = record
+  { refl = ≋-refl
+  ; sym = ≋-sym
+  ; trans = ≋-trans
+  }
+
+≈⇒≋ : _≈_ ⇒ _≋_
+≈⇒≋ {x} {y} x≈y = N.ε by trans (∙-cong ι.ε-homo x≈y) (identityˡ y)
+
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda]:
```suggestion
```
In view of the above refactoring of reflexivity...

File: src/Algebra/Construct/Quotient/Group.agda [hunk 17]
```diff
@@ -0,0 +1,129 @@
...
+  module N = NormalSubgroup N
+open NormalSubgroup N using (ι; module ι; conjugate; normal)
+
+infix 0 _by_
+
+data _≋_ (x y : Carrier) : Set (c ⊔ ℓ ⊔ c′) where
+  _by_ : ∀ g → ι g ∙ x ≈ y → x ≋ y
+
+≋-refl : Reflexive _≋_
+≋-refl {x} = N.ε by trans (∙-congʳ ι.ε-homo) (identityˡ x)
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda]:
```suggestion
≈⇒≋ : _≈_ ⇒ _≋_
≈⇒≋ {x} {y} x≈y = N.ε by trans (∙-cong ι.ε-homo x≈y) (identityˡ y)

≋-refl : Reflexive _≋_
≋-refl = ≈⇒≋ refl
```
Unsurprisingly, these proofs are definitionally equal to the previous versions, but put `≈⇒≋` ('abstract' reflexivity...) higher up the food chain.

File: src/Algebra/Construct/Quotient/Group.agda [hunk 18]
```diff
@@ -0,0 +1,129 @@
...
+
+module Algebra.Construct.Quotient.Group  {c ℓ} (G : Group c ℓ) {c′ ℓ′} (N : NormalSubgroup G c′ ℓ′) where
+
+open Group G
+
+import Algebra.Definitions as AlgDefs
+open import Algebra.Morphism.Structures using (IsGroupHomomorphism)
+open import Algebra.Properties.Monoid monoid
+open import Algebra.Properties.Group G using (⁻¹-anti-homo-∙)
+open import Algebra.Structures using (IsGroup)
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda:20]: Do we need this import? Cf. #2391 and see below.

File: src/Algebra/Construct/Quotient/Group.agda [hunk 19]
```diff
@@ -0,0 +1,129 @@
...
+    }
+  ; inverse = record
+    { fst = λ x → ≈⇒≋ (inverseˡ x)
+    ; snd = λ x → ≈⇒≋ (inverseʳ x)
+    }
+  ; ⁻¹-cong = ≋-⁻¹-cong
+  }
+
+quotientGroup : Group c (c ⊔ ℓ ⊔ c′)
+quotientGroup = record { isGroup = quotientIsGroup }
```
Comment (jamesmckinna) [inline src/Algebra/Construct/Quotient/Group.agda:101]: And now inline the definition above?
```suggestion
quotientGroup = record
  { isGroup = ...
  }
```

**Comment by jamesmckinna** [comment]
In lieu of any further review comments, please see #2859 (purely!) as a comparison point, and feel free to grab anything from there which you might find useful... it just seemed the easiest way to encapsulate all the thoughts I had had about your groups-rings-modules development

File: src/Algebra/Construct/Quotient/Group.agda (hunk 14 above)
Comment (jamesmckinna) [reply src/Algebra/Construct/Quotient/Group.agda:119]: On reflection, my response to @JacquesCarette 's request for comments on #2859 suggest that I perhaps row back on this suggestion/request, in favour of suitable `open` declarations to bring these three things into scope... cf. #2391

File: src/Algebra/NormalSubgroup.agda (hunk 15 above)
Comment (Taneb) [reply src/Algebra/NormalSubgroup.agda]: No it's not, that's where `Commutative` is exported from. I'll add an explicit import

File: src/Algebra/Construct/Quotient/Group.agda (hunk 5 above)
Comment (jamesmckinna) [reply src/Algebra/Construct/Quotient/Group.agda]: Then let me push for it!

Comment (Taneb) [reply src/Algebra/Construct/Quotient/Group.agda]: Done!

File: src/Algebra/Construct/Quotient/Group.agda [hunk 20]
```diff
@@ -0,0 +1,124 @@
...
+open import Relation.Binary.Reasoning.Setoid setoid
+
+private
+  module N = NormalSubgroup N
+open NormalSubgroup N using (ι; module ι; conjugate; normal)
+
+infix 0 _by_
+
+data _≋_ (x y : Carrier) : Set (c ⊔ ℓ ⊔ c′) where
+  _by_ : ∀ g → ι g ∙ x ≈ y → x ≋ y
```
Comment (Taneb) [inline src/Algebra/Construct/Quotient/Group.agda:37]: If this is instead `_by_ : ∀ g → x ∙ ι g ≈ y → x ≋ y` some things line up nicer when we get to integers (in particular it matches `Data.Integer.DivMod.a≡a%n+[a/n]*n`)

Comment (jamesmckinna) [reply src/Algebra/Construct/Quotient/Group.agda:37]: Well, so be it, but be careful of having a tail wag the dog. It wouldn't be the first time that existing `stdlib` modules expose argument order/definitional inconsistency when exposed to new additions/refactoriings (the saga of `Algebra.Properties.*.Divisibility` and `Data.Nat.DivMod.*` being a case in point)...

Comment (Taneb) [reply src/Algebra/Construct/Quotient/Group.agda:37]: The alternative here would be putting more lemmas in `Data.Integer.DivMod`, which I want to do anyway

**Comment by jamesmckinna** [comment]
FTR, if you don't feel like augmenting this with the `Sub.AbelianGroup` additions (plus their consequences for `NormalSubgroup`s and `Quotient.AbelianGroup` in #2859 , I'll be sure to post a follow-up PR ;-)

File: src/Algebra/Construct/Quotient/Group.agda (hunk 20 above)
Comment (jamesmckinna) [reply src/Algebra/Construct/Quotient/Group.agda:37]: Well, after my recent flurry of activity around `Central`/`Centre.*` #2872 #2873 #2885 I've been turning over-and-over this question of what is the mathematically/formalistically 'best' account of the equivalence relation on the `Carrier` such that `id` is the function underlying the quotient map, *and* such that the identification of the `Kernel` of the quotient homomorphism with the `Normal` subgroup which gives rise to it. 

Envisaging `Kernel`s #2871 #1966  being designed/defined on top of the recent addition `Relation.Binary.Morphism.Construct.On`  in #2872 , the conclusion I come to is that the symmetric form of the `by` constructor would be more streamlined...

... and avoid having to commit you to one or other 'handed' choice...

* the carrier of (the kernel of a hom `h` onto) the quotient becomes triples `(m,x,n)` st `h(m)x = xh(n)`,
* this is obviously `Normal`... the conjugate swaps `m` and `n` (up to `h`...)

conversely, given a `Normal` subgroup, we obtain an element of the kernel as `(m, x, conjugate(m))`...

etc. details to work out, but I think overall the symmetric choice for the `by` constructor would work more smoothly.

File: src/Algebra/NormalSubgroup.agda [hunk 21]
```diff
@@ -0,0 +1,37 @@
...
+
+private
+  module G = Group G
+
+-- every element of the subgroup commutes in G
+record IsNormal {c′ ℓ′} (subgroup : Subgroup c′ ℓ′) : Set (c ⊔ ℓ ⊔ c′) where
+  open Subgroup subgroup
+  field
+    conjugate : ∀ n g → Carrier
+    normal : ∀ n g → ι (conjugate n g) G.∙ g G.≈ g G.∙ ι n
```
Comment (jamesmckinna) [inline src/Algebra/NormalSubgroup.agda:25]: As this PR matures, I can't help thinking that while this definition is perfectly fine *for `Group`s*, nevertheless it still embodies a left/right handedness which we should try as far as possible to resist committing to: calling it `IsNormal` for the sake of argument, and rename its fields to:
```agda
record IsNormalʳ {c′ ℓ′} (subgroup : Subgroup c′ ℓ′) : Set (c ⊔ ℓ ⊔ c′) where
  open Subgroup subgroup using (ι)
  field
    _ι∙ʳ_ : ∀ g n → typeOf n

    normalʳ : ∀ n g → ι (g ι∙ʳ n) G.∙ g G.≈ g G.∙ ι n
```
(there's some notation design to consider here! #2894 ).

By symmetry we should also consider 
```agda
    _ι∙ˡ_ : ∀ n g → typeOf n
    normalˡ : ∀ n g → g G.∙ ι (n ι∙ˡ g) G.≈ ι n G.∙ g
```
and, again *for `Group`s*, there is a relationship between `g ι∙ʳ n` and `n ι∙ˡ g` (roughly: 'conjugate of the inverse is the inverse of the conjugate'), but in general, we might expect no such relationship?

I'd first thought that 'conjugate of the inverse is the inverse of the conjugate' should be reified as a manifest field (and still could: to simplify certain arguments, if nothing else), but the more I thought about it, the more I thought that 'left-normal' and 'right-normal' are free-standing concepts... ?

Cf. left- and right-actions #2350 (normal subgroups, defined by monomorphism, induce left- and right- actions on their ambient group... with certain properties...)

File: src/Algebra/Construct/Quotient/Group.agda (hunk 20 above)
Comment (jamesmckinna) [reply src/Algebra/Construct/Quotient/Group.agda:37]: For comparison:
```agda
------------------------------------------------------------------------
-- Quotient groups

module Quotient {c′ ℓ′} (N : NormalSubgroup c′ ℓ′) where

  private

    open G
      using (_≈_; _∙_; ε; _⁻¹)

    open module N = NormalSubgroup N
      using (ι; module ι; conjugate; normal)

------------------------------------------------------------------------
-- Definitions

-- symmetric form

  data _≋_ x y : Set (c ⊔ ℓ ⊔ c′) where
     ≋-intro : ∀ g h → ι g ∙ x ≈ y ∙ ι h → x ≋ y

-- left-biased form

  data _≋ˡ_ x y : Set (c ⊔ ℓ ⊔ c′) where
     ≋ˡ-intro : ∀ g → ι g ∙ x ≈ y → x ≋ˡ y

-- right-biased form

  data _≋ʳ_ x y : Set (c ⊔ ℓ ⊔ c′) where
     ≋ʳ-intro : ∀ h → x ≈ y ∙ ι h → x ≋ʳ y

-- smart constructors

  ≋ˡ⇒≋ : _≋ˡ_ ⇒ _≋_
  ≋ˡ⇒≋ (≋ˡ-intro g gx≈y) = ≋-intro g N.ε (G.trans gx≈y (G.sym (elimʳ ι.ε-homo _)))

  ≋ʳ⇒≋ : _≋ʳ_ ⇒ _≋_
  ≋ʳ⇒≋ (≋ʳ-intro h x≈yh) = ≋-intro N.ε h (G.trans (elimˡ ι.ε-homo _) x≈yh)

  ≋⇒≋ˡ : _≋_ ⇒ _≋ˡ_
  ≋⇒≋ˡ {x} {y} (≋-intro g h gx≈yh) = ≋ˡ-intro ((h′ N.⁻¹) N.∙ g) $ begin
    ι (h′ N.⁻¹ N.∙ g) ∙ x   ≈⟨ G.∙-congʳ (ι.∙-homo (h′ N.⁻¹) g) ⟩
    (ι (h′ N.⁻¹) ∙ ι g) ∙ x ≈⟨ G.assoc _ _ _ ⟩
    ι (h′ N.⁻¹) ∙ (ι g ∙ x) ≈⟨ G.∙-congˡ gx≈yh ⟩
    ι (h′ N.⁻¹) ∙ (y ∙ ι h) ≈⟨ G.∙-cong (G.sym (ι.⁻¹-homo h′)) (normal h y) ⟨
    (ι h′) ⁻¹ ∙ (ι h′ ∙ y)  ≈⟨ cancelˡ (G.inverseˡ _) y ⟩
    y ∎
    where h′ = conjugate y h

  ≋⇒≋ʳ : _≋_ ⇒ _≋ʳ_
  ≋⇒≋ʳ {x} {y} (≋-intro g h gx≈yh) = ≋ʳ-intro (h N.∙ (g′ N.⁻¹)) $ begin
    x                           ≈⟨ x≈z//y _ _ _ xg′≈gx ⟩
    (ι g ∙ x) ∙ ι g′ ⁻¹         ≈⟨ G.∙-congʳ gx≈yh ⟩
    ((y ∙ (ι h)) ∙ (ι g′) ⁻¹)   ≈⟨ G.∙-congˡ (ι.⁻¹-homo g′) ⟨
    (y ∙ (ι h)) ∙ ι (g′ N.⁻¹)   ≈⟨ G.assoc _ _ _ ⟩
    (y ∙ ((ι h) ∙ ι (g′ N.⁻¹))) ≈⟨ G.∙-congˡ (ι.∙-homo h (g′ N.⁻¹)) ⟨
    y ∙ ι (h N.∙ g′ N.⁻¹)       ∎
    where
    g′ = conjugate (x ⁻¹) g
    xg′≈gx : x ∙ ι g′ ≈ ι g ∙ x
    xg′≈gx = ∙-cancelʳ (x ⁻¹) _ _ $ begin
      (x ∙ ι g′) ∙ x ⁻¹ ≈⟨ G.assoc _ _ _ ⟩
      x ∙ (ι g′ ∙ x ⁻¹) ≈⟨ G.∙-congˡ (normal g (x ⁻¹)) ⟩
      x ∙ (x ⁻¹ ∙ ι g)  ≈⟨ cancelˡ (G.inverseʳ _) _ ⟩
      ι g               ≈⟨ cancelʳ (G.inverseʳ _) _ ⟨
      (ι g ∙ x) ∙ x ⁻¹  ∎

------------------------------------------------------------------------
-- Properties

  ≈⇒≋ : _≈_ ⇒ _≋_
  ≈⇒≋ {x = x} {y = y} x≈y = ≋-intro N.ε N.ε $ begin
    ι N.ε ∙ x ≈⟨ G.∙-cong ι.ε-homo x≈y ⟩
    ε ∙ y     ≈⟨ ε-central y ⟩
    y ∙ ε     ≈⟨ G.∙-congˡ ι.ε-homo ⟨
    y ∙ ι N.ε ∎

  refl : Reflexive _≋_
  refl = ≈⇒≋ G.refl

  sym : Symmetric _≋_
  sym {x} {y} (≋-intro g h gx≈yh) = ≋-intro (g N.⁻¹) (h N.⁻¹) $
    ∙-cancelˡ (ι g) _ _ $ ∙-cancelʳ (ι h) _ _ $ begin
    ι g ∙ (ι (g N.⁻¹) ∙ y) ∙ ι h
      ≈⟨ G.∙-congʳ (cancelˡ (G.trans (G.∙-congˡ (ι.⁻¹-homo g)) (G.inverseʳ _)) y) ⟩
    y ∙ ι h
      ≈⟨ gx≈yh ⟨
    ι g ∙ x
      ≈⟨ uv≈w⇒xu∙v≈xw (cancelʳ (G.trans (G.∙-congʳ (ι.⁻¹-homo h)) (G.inverseˡ _)) x) _ ⟨
    ι g ∙ (x ∙ ι (h N.⁻¹)) ∙ ι h ∎

  trans : Transitive _≋_
  trans {x} {y} {z} (≋-intro g h gx≈yh) (≋-intro m n my≈zn) =
    ≋-intro (m N.∙ g) (n N.∙ h) $ begin
      ι (m N.∙ g) ∙ x ≈⟨ uv≈w⇒u∙vx≈wx (G.sym (ι.∙-homo m g)) x ⟨
      ι m ∙ (ι g ∙ x) ≈⟨ G.∙-congˡ gx≈yh ⟩
      ι m ∙ (y ∙ ι h) ≈⟨ uv≈w⇒u∙vx≈wx my≈zn (ι h) ⟩
      (z ∙ ι n) ∙ ι h ≈⟨ uv≈w⇒xu∙v≈xw (G.sym (ι.∙-homo n h)) z ⟩
      z ∙ ι (n N.∙ h) ∎

  ⁻¹-cong : Congruent₁ _≋_ _⁻¹
  ⁻¹-cong {x} {y} (≋-intro g h gx≈yh) =
    ≋-intro h g $ ∙-cancelˡ y _ _ $ ∙-cancelʳ x _ _ $ begin
    (y ∙ (ι h ∙ x ⁻¹)) ∙ x ≈⟨ uv≈w⇒xu∙v≈xw (cancelʳ (G.inverseˡ x) (ι h)) y ⟩ 
    y ∙ ι h                ≈⟨ gx≈yh ⟨
    ι g ∙ x                ≈⟨ G.∙-congʳ (cancelˡ (G.inverseʳ y) (ι g)) ⟨
    (y ∙ (y ⁻¹ ∙ ι g)) ∙ x ∎

  ∙-cong : Congruent₂ _≋_ _∙_
  ∙-cong {x} {y} {u} {v} x≋y u≋v
    with ≋ˡ-intro g gx≈y ← ≋⇒≋ˡ x≋y | ≋ʳ-intro h u≈vh ← ≋⇒≋ʳ u≋v
    = ≋-intro g h $ begin
      ι g ∙ (x ∙ u) ≈⟨ uv≈w⇒u∙vx≈wx gx≈y u ⟩
      y ∙ u         ≈⟨ uv≈w⇒xu∙v≈xw (G.sym u≈vh) y ⟨
      (y ∙ v) ∙ ι h ∎
```
...
and each of these proofs I think ca be further simplified with a bit more thought/refactoring... ;-)

**Comment by jamesmckinna** [comment]
@Taneb do you want to try to finish this (and related PRs) for v2.4? It's currently unbadged as to milestone...

File: src/Algebra/Construct/Quotient/Group.agda [hunk 22]
```diff
@@ -0,0 +1,124 @@
...
+  x ⁻¹ ∙ ι g ⁻¹     ≈⟨ ⁻¹-anti-homo-∙ (ι g) x ⟨
+  (ι g ∙ x) ⁻¹      ≈⟨ ⁻¹-cong ιg∙x≈y ⟩
+  y ⁻¹              ∎
+  where h = conjugate (g N.⁻¹) (x ⁻¹)
+
+quotientIsGroup : IsGroup _≋_ _∙_ ε _⁻¹
+quotientIsGroup = record
+  { isMonoid = record
+    { isSemigroup = record
+      { isMagma = record
```
Comment (gallais) [inline src/Algebra/Construct/Quotient/Group.agda:88]: Lots of nested records :s

Comment (JacquesCarette) [reply src/Algebra/Construct/Quotient/Group.agda:88]: What the 1lab is doing is to make the 'official' version of stuff nested, but then provide a helper "flat" record for users to fill in (and a smart constructor to shove things over). The helper also omits fields when they are derivable.

Comment (Taneb) [reply src/Algebra/Construct/Quotient/Group.agda:88]: I'm happy to unnest these once their contents is determined
